US08975261B2
4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-2-methyl-5-(2-methyl-1,3-thiazol-5-yl)pyrimidine (QQ1)
A mixture of 5-bromo-4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]-methoxy}-2-methylpyrimidine (MM3) (35 mg, 0.10 mmol), bis(pinacolato)diboron (27.9 mg, 0.11 mmol), potassium acetate (39 mg, 0.40 mmol) and PdCl2(dppf) (14.6 mg, 0.020 mmol) in dioxane (0.6 mL) under N2 was heated at 120° C. for 2 hours. A solution of 5-bromo-2-methyl-1,3-thiazole (26.7 mg, 0.15 mmol) in dioxane (0.2 mL) was added followed by aqueous cesium carbonate (2 M, 0.15 mL, 0.30 mmol). The resulting mixture was heated at 120° C. for 14 hours. The mixture was cooled to ambient temperature, diluted with EtOAc (5 mL), washed with sodium bicarbonate (1 mL) and brine (1 mL), dried over MgSO4, filtered and concentrated. The resulting residue was purified by reverse phase chromatography (Waters Sunfire Prep C18 OBD, 5-45% acetonitrile in water with 0.1% TFA modifier) to afford the title compound as a white, gummy solid. 1H NMR (500 MHz, DMSO): δ 8.83 (s, 1 H), 8.20 (s, 1 H), 8.14 (d, J=2.9 Hz, 1 H), 7.31-7.25 (m, 2 H), 4.56 (dd, J=11.2, 6.9 Hz, 1 H), 4.37 (dd, J=11.2, 7.6 Hz, 1 H), 3.78 (s, 3 H), 2.62 (s, 3 H), 2.54 (s, 3 H), 2.22 (dt, J=8.6, 4.6 Hz, 1 H), 1.78 (s, 1 H), 1.24-1.18 (m, 1 H), 1.11-1.05 (m, 1 H); HRMS m/z (M+H) 369.1386 found, 369.1380 required.

reactant | 5-bromo-4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]-methoxy}-2-methylpyrimidine | 0.10 mmol, 35 mg | BrC=1C(=NC(=NC1)C)OC[C@@H]1[C@H](C1)C1=NC=C(C=C1)OC | C15H16BrN3O2
reactant | bis(pinacolato)diboron | 0.11 mmol, 27.9 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.40 mmol, 39 mg | C(C)(=O)[O-].[K+]
reactant | 5-bromo-2-methyl-1,3-thiazole | 0.15 mmol, 26.7 mg | BrC1=CN=C(S1)C | C4H4BrNS
reactant | cesium carbonate | 0.30 mmol, 2 M, 0.15 mL | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.2 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) | 0.020 mmol, 14.6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-2-methyl-5-(2-methyl-1,3-thiazol-5-yl)pyrimidine | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)COC1=NC(=NC=C1C1=CN=C(S1)C)C | C19H20N4O2S
